US05117057
A solution of N'-t-butyl-N'-(4-chlorobenzoyl)hydrazine (0.5 g, 0.0022 mol) and 5-bromonicotinic acid (0.44 g, 0.0022 mol) in 10 ml of methylene chloride containing triethylamine (0.33 g) was added to a solution of methanesulfonyl chloride (0.25 g, 0.0022 mol) in 10 ml of methylene chloride at 0° C. The resulting mixture was stirred at 23° C. for 2 hours and then was allowed to stand overnight at 23° C. Aqueous sodium bicarbonate was added and the layers were separated. The aqueous layer was re-extracted with methylene chloride. The organic extracts were evaporated to give a yellow solid which was triturated with hexane/methylene chloride to afford N'-t-butyl-N-(5-bromonicotinoyl)-N'-(4-chlorobenzoyl)hydrazine as an off-white solid. m.p. 193°-197° C.

reactant | N'-t-butyl-N'-(4-chlorobenzoyl)hydrazine | 0.0022 mol, 0.5 g | C(C)(C)(C)N(N)C(C1=CC=C(C=C1)Cl)=O | C11H15ClN2O
reactant | 5-bromonicotinic acid | 0.0022 mol, 0.44 g | BrC=1C=NC=C(C(=O)O)C1 | C6H4BrNO2
reactant | methanesulfonyl chloride | 0.0022 mol, 0.25 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 0.33 g | C(C)N(CC)CC | C6H15N
product | N'-t-butyl-N-(5-bromonicotinoyl)-N'-(4-chlorobenzoyl)hydrazine | C(C)(C)(C)N(NC(C1=CN=CC(=C1)Br)=O)C(C1=CC=C(C=C1)Cl)=O | C17H17BrClN3O2
